US07612114B2
(R)-6-{2-{{4-[2-(3,3-Dimethylpiperidin-1-yl)ethyl]benzyl}ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (19 mg) and 3,3-dimethylpiperidine (20 mg) according to an analogous synthetic method to Example 715 and purified by LC-MS, the title compound (4.3 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 19 mg | C(=O)(O)CC1=CC=C(CCCNC2=C(C=C(C(=C2)OC)OC)[C@H]2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C34H41NO6
reactant | 3,3-dimethylpiperidine | 20 mg | CC1(CNCCC1)C | C7H15N
product | (R)-6-{2-{{4-[2-(3,3-Dimethylpiperidin-1-yl)ethyl]benzyl}ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 4.3 mg | CC1(CN(CCC1)CCC1=CC=C(CCCNC2=C(C=C(C(=C2)OC)OC)[C@H]2CC=3C=CC(=CC3CC2)O)C=C1)C | C36H48N2O3
